US04891363
2-Benzyloxymethyl-4,5-dihydrofuran
7.69 g of sodium hydride (as a 55% w/w suspension in mineral oil) were suspended in 150 ml of dimethylformamide, and 17.64 g of 4,5-dihydrofurfuryl alcohol (prepared as described in Preparation 48) in 30 ml of dimethylformamide were added dropwise at 5°-10° C. over 30 minutes, whilst ice-cooling. The mixture was stirred at room temperature for 1 hour, and then 20.93 ml of benzyl bromide were added dropwise thereto at 10°-15° C. over a further 30 minutes, whilst ice-cooling. The reaction mixture was stirred at room temperature for 1 hour, poured into 2 liters of water and extracted twice with ethyl acetate. The extracts were combined, washed with water, dried over anhydrous magnesium sulfate and evaporated to dryness under reduced pressure, to give 17.8 g of an oily residue. This residue was purified by column chromatography through 400 g of silica gel. Those fractions eluted with a 7:100 by volume mixture of hexane and diethyl ether afforded 3.71 g of the title compound as a colorless oil.

reactant | sodium hydride | 7.69 g | [H-].[Na+]
reactant | 4,5-dihydrofurfuryl alcohol | 17.64 g | C(C1=CCCO1)O | C5H8O2
reactant | benzyl bromide | 20.93 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 2 liters | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-Benzyloxymethyl-4,5-dihydrofuran | 17.8 g | C(C1=CC=CC=C1)OCC=1OCCC1 | C12H14O2
